US04435404
Into 200 ml of chloroform were added 5 g of 6-(3-carboxypropoxy)carbostyril and 3.2 g DBU. The outside of the reaction vessel containing the above mentioned mixture was ice-cooled and 2.8 g of isobutyl chloroformate was added dropwise to the mixture under stirring condition. After the addition operation, the reaction mixture was further stirred for 1 hour, then 3.7 g of N-cyclohexylpiperazine was added dropwise at a room temperature, and the reaction was continued for 5 hours. After the reaction was completed, the reaction mixture was washed with 1% NaOH aqueous solution and water, then dried with anhydrous sodium sulfate. The drying agent was removed by filtration and the mother liquor was concentrated. The residue thus obtained was treated by a silica-gel column chromatography (solvent used was a mixture of chloroform:methanol=30:1) to obtain elute. The elute was concentrated and the residue was recrystallized from water-containing methanol to obtain 4 g of 6-[3-(4-cyclohexyl-1-piperazylcarbonyl)propoxy]carbostyril in the form of colorless needle-like crystals. Melting point: 184.5°-186° C.

reactant | 6-(3-carboxypropoxy)carbostyril | 5 g | C(=O)(O)CCCOC=1C=C2C=CC(NC2=CC1)=O | C13H13NO4
reactant | DBU | 3.2 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | isobutyl chloroformate | 2.8 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-cyclohexylpiperazine | 3.7 g | C1(CCCCC1)N1CCNCC1 | C10H20N2
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-[3-(4-cyclohexyl-1-piperazylcarbonyl)propoxy]carbostyril | 4 g | C1(CCCCC1)N1CCN(CC1)C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O | C23H31N3O3
